US05994342
(3RS,5RS)-3-[N-(1,2,3-Triazole-1-yl)acetylaminomethyl]-4-oxa-1-azabicyclo[3.2.0]heptan-7-one (10)
150 mg of (3RS,5RS)-3-[N-(Azidoacetyl)aminomethyl]-4-oxa-1-azabicyclo[3.2.0]heptan-7-one was dissolved in 10 ml of Acetone and Acetylene was bubbled at -78° C. for 5 minutes. The reaction mixture was heated at 60-70° C. in seal tube for 17 hrs. After reaction completed, solvent was removed in vacuo and the residue was purified by silicagel column chromatography (Ethyl acetate+Acetone 3:1). The title compound was obtained as oil.

reactant | (3RS,5RS)-3-[N-(Azidoacetyl)aminomethyl]-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | 150 mg | N(=[N+]=[N-])CC(=O)NCC1CN2C(CC2O1)=O | C8H11N5O3
reactant | Acetone | 10 ml | CC(=O)C | C3H6O
product | (3RS,5RS)-3-[N-(1,2,3-Triazole-1-yl)acetylaminomethyl]-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | Yield:69% | N1(N=NC=C1)CC(=O)NCC1CN2C(CC2O1)=O | C10H13N5O3
